US08802861B2
In a flask, is dissolved 5-(3-nitrophenyl)-1,3,4-oxadiazol-2-ol (369.90 mg; 1.79 mmol; 1.00 eq.) in MeOH (20.00 ml) under innert atmosphere. Palladium 10% on charcoal (190.03 mg; 0.18 mmol; 0.10 eq.) is added and the reaction mixture is stirred 5 minutes at RT. The mixture is then put under atmospheric pressure of hydrogen. The reaction is completed after 2 hours. The mixture is filtrated on celite and rinced with MeOH. The solvents are evaporated under vacuo, affording 5-(3-aminophenyl)-1,3,4-oxadiazol-2-ol as a white powder (283.30 mg; 89.55%). 1H NMR (DMSO-d6) δ: 5.43 (s, 2H), 6.70 (m, 1H), 6.89 (m, 1H), 7.08 (s, 1H), 7.14 (m, 1H), 12.44 (s, 1H).

reactant | 5-(3-nitrophenyl)-1,3,4-oxadiazol-2-ol | 1.79 mmol, 369.90 mg, 1.00 eq. | [N+](=O)([O-])C=1C=C(C=CC1)C1=NN=C(O1)O | C8H5N3O4
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 20.00 ml | CO | CH4O
catalyst | Palladium | [Pd] | Pd
product | 5-(3-aminophenyl)-1,3,4-oxadiazol-2-ol | NC=1C=C(C=CC1)C1=NN=C(O1)O | C8H7N3O2
